US07977344B2
6-Amino-2-[(2-cyclopropylethyl)oxy]-9-[2-(tetrahydro-2-furanyl)ethyl]-7,9-dihydro-8H-Purin-8-one
To a solution of 2-[(2-cyclopropylethyl)oxy]-8-(methyloxy)-9-[2-(tetrahydro-2-furanyl)ethyl]-9H-purin-6-amine (88 mg, 0.253 mmol) in methanol (10 ml) at room temperature was added 4M HCl in 1,4 dioxane (2.106 ml, 8.42 mmol) to give a pale straw coloured solution. The reaction mixture was stirred at ambient temperature overnight (16 hours) and then loaded in methanol onto a 5 g aminopropyl SPE cartridge and eluted with methanol. The filtrate was evaporated on a nitrogen blowdown unit to give the title compound as a white solid (41 mg).

reactant | 2-[(2-cyclopropylethyl)oxy]-8-(methyloxy)-9-[2-(tetrahydro-2-furanyl)ethyl]-9H-purin-6-amine | 0.253 mmol, 88 mg | C1(CC1)CCOC1=NC(=C2N=C(N(C2=N1)CCC1OCCC1)OC)N | C17H25N5O3
reactant | HCl | 4M | Cl | ClH
reactant | 1,4 dioxane | 8.42 mmol, 2.106 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 10 ml | CO | CH4O
product | 6-Amino-2-[(2-cyclopropylethyl)oxy]-9-[2-(tetrahydro-2-furanyl)ethyl]-7,9-dihydro-8H-Purin-8-one | 41 mg | NC1=C2NC(N(C2=NC(=N1)OCCC1CC1)CCC1OCCC1)=O | C16H23N5O3
